US07244730B2
(Step 5) 1-[5-Bromo-3-(tert-butyl)-2-methoxyphenyl]-4-piperidinone
After adding a 37% formaldehyde aqueous solution (7.6 ml, 94 mmol) and anhydrous magnesium sulfate (43 g) in that order to a solution of 5-bromo-3-(tert-butyl)-2-methoxyaniline (22 g, 85 mmol) in methylene chloride (170 ml) at room temperature, the mixture was stirred at the same temperature for 4 hours. The reaction mixture was filtered through celite, and then washing was performed with methylene chloride (100 ml). The obtained filtrate was cooled to −70° C. and 2-(trimethylsilyloxy)-1,3-butadiene (16.2 ml, 92.3 mmol) was added. A 1.0 M Et2AlCl-Hex. solution (94 ml, 94 mmol) was also slowly added dropwise, and the mixture was stirred for 12 hours while gradually raising the temperature to room temperature. After completion of the reaction, dilution was carried out with Et2O while cooling on ice, water (16 ml) was slowly added dropwise, and the mixture was stirred for an additional 2 hours at room temperature. After distilling off the solvent under reduced pressure, tetrahydrofuran (170 ml) was added, the pH was adjusted to 1 with a 1 N hydrochloric acid aqueous solution while cooling on ice, and the mixture was stirred for 1 hour. It was then diluted with water, and NaHCO3 powder was added to render the solution basic, extraction was performed with ethyl acetate and the extract was washed with brine. After drying over anhydrous Na2CO3, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (9.0 g) as a brown oil.

reactant | formaldehyde | 94 mmol, 7.6 ml | C=O | CH2O
reactant | magnesium sulfate | 43 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 5-bromo-3-(tert-butyl)-2-methoxyaniline | 85 mmol, 22 g | BrC=1C=C(C(=C(N)C1)OC)C(C)(C)C | C11H16BrNO
reactant | 2-(trimethylsilyloxy)-1,3-butadiene | 92.3 mmol, 16.2 ml | C[Si](OC(=C)C=C)(C)C | C7H14OSi
reactant | Et2AlCl | 1.0 M | [Al](CC)(CC)Cl
solvent | methylene chloride | 170 ml | C(Cl)Cl | CH2Cl2
solvent | water | 16 ml | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | 1-[5-Bromo-3-(tert-butyl)-2-methoxyphenyl]-4-piperidinone | 9.0 g | BrC=1C=C(C(=C(C1)N1CCC(CC1)=O)OC)C(C)(C)C | C16H22BrNO2
